US07795272B2
To a solution of 2.5 g (13 mmol) of 2-(4-methylchroman-4-yl)ethanol in 15 mL of acetic acid was added 7.5 mL of a 2.7 M solution of bromine in acetic acid. After 30 minutes, the reaction was poured onto an ice cold slurry of potassium carbonate in water and extracted with diethyl ether. The combined organic fractions were dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was passed through a pad of silica gel using ethyl acetate-hexanes (0-30% gradient) to afford 3.6 g (90%) of acetic acid 2-(6-bromo-4-methylchroman-4-yl)ethyl ester as an oil. The ester was treated with 0.96 g (23 mmol) of lithium hydroxide in 45 mL of 4:1 mixture of methanol-water. After stirring overnight, the reaction was concentrated in vacuo to remove methanol and the remaining aqueous layer was extracted with ethyl acetate. The combined organic layers were dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 3 g (96%) of 2-(6-bromo-4-methylchroman-4-yl)ethanol as an oil.

reactant | 2-(4-methylchroman-4-yl)ethanol | 13 mmol, 2.5 g | CC1(CCOC2=CC=CC=C12)CCO | C12H16O2
reactant | bromine | BrBr | Br2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | acetic acid 2-(6-bromo-4-methylchroman-4-yl)ethyl ester | 3.6 g, 90% | BrC=1C=C2C(CCOC2=CC1)(C)CCOC(C)=O | C14H17BrO3
